US20010037034A1
Preparation of bis(triethoxysilylpropyl)disulfane
A mixture of 129 l of ethanol and 129 l of 3-chloropropyltriethoxysilane is placed in the reactor of comparison example 1. 13.85 kg of sulfur in molten form is then metered in through a fine nozzle. 35.6 kg of virtually anhydrous sodium sulfide is then added. The temperature of the reactor contents rises to 82° C. on account of the exothermic reaction. The reaction mixture is kept for a further 1.5 hours at 82-83° C. and then cooled. The reaction mixture is worked up as in comparison example 1. An almost water-white product is obtained. HPLC analysis confirms in this case too the presence of a polysulfane mixture with a mean chain length of 2, though the mixture has a high monosulfane content.

reactant | 3-chloropropyltriethoxysilane | 129 l | ClCCC[Si](OCC)(OCC)OCC | C9H21ClO3Si
reactant | sulfur | 13.85 kg | [S] | S
reactant | sodium sulfide | [S-2].[Na+].[Na+]
reactant | monosulfane | S | H2S
solvent | water | O | H2O
solvent | ethanol | 129 l | C(C)O | C2H6O
product | bis(triethoxysilylpropyl)disulfane | C(C)O[Si](OCC)(OCC)CCCSSCCC[Si](OCC)(OCC)OCC | C18H42O6S2Si2
